US04950756
Preparation of 1-nitro-2-(2'-oxoethyl)anthraquinone
100 g (0.31 mol) of 2-(2'-dimethylaminoethenyl)-1-nitroanthraquinone are refluxed with 200 g of concentrated hydrochloric acid (38% strength) and 600 g of water for 2 hours. After cooling, the precipitated crystals are filtered off, washed with water until neutral and dried at 70° C. This leaves 90.5 g (98.7%) of 1-nitro-2-(2'-oxoethyl)anthraquinone; melting point: 192° C.

reactant | 2-(2'-dimethylaminoethenyl)-1-nitroanthraquinone | 0.31 mol, 100 g | CN(C=CC1=C(C=2C(C3=CC=CC=C3C(C2C=C1)=O)=O)[N+](=O)[O-])C | C18H14N2O4
reactant | hydrochloric acid | 200 g | Cl | ClH
reactant | water | 600 g | O | H2O
product | 1-nitro-2-(2'-oxoethyl)anthraquinone | [N+](=O)([O-])C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)CC=O | C16H9NO5
